US06262103B1
3-Methylthio-1-(oxazol-2-yl)-4,5,6,7-tetrahydrobenzo[c]thiophen-4-one
In a similar way to that in Example 35, using 1-bromo-3-methylthio-4,5,6,7-tetrahydrobenzo[c]thiophen-4-one and 2-(tri-n-butylstannyl)oxazole, the title compound was isolated as a pale yellow solid (35 mg, 37%). mp 157-159° C. Found: C, 54.0; H, 3.7; N, 5.6%. C12H11NO2S2 requires: C, 54.32; H, 4.18; N, 5.28%. 1HNMR (250 MHz, CDCl3) δ 2.05-2.16 (2H, m), 2.56-2.61 (2H, m), 2.63 (3H, s), 3.20-3.25 (2H, m), 7.20 (1H, s), 7.66 (1H, s). MS (ES+) 266 (M+1).

reactant | 1-bromo-3-methylthio-4,5,6,7-tetrahydrobenzo[c]thiophen-4-one | BrC=1SC(=C2C1CCCC2=O)SC | C9H9BrOS2
reactant | 2-(tri-n-butylstannyl)oxazole | C(CCC)[Sn](C=1OC=CN1)(CCCC)CCCC
product | 3-Methylthio-1-(oxazol-2-yl)-4,5,6,7-tetrahydrobenzo[c]thiophen-4-one | CSC1=C2C(=C(S1)C=1OC=CN1)CCCC2=O | C12H11NO2S2
